US06156774
2-[(5-Benzyl)furan-2-yl]-N-[-2-(acetylthiomethyl)-3-phenylpropionyl]glycine ethyl ester
The title compound was prepared from 2-(acetylthiomethyl)-3-phenylpropionic acid (US 4329495) and ethyl (5-benzyl)furan-2-yl-2-hydroxyiminoacetate (Description 42) by the procedure of Description 40. νmax (CHCl3) 3428, 1741 and 1683cm-1. m/z 479 M+). [Found (HRMS): m/z 479.1768. Calc. for C27H29NO5S; 479.1766].

reactant | 2-(acetylthiomethyl)-3-phenylpropionic acid | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
reactant | ethyl (5-benzyl)furan-2-yl-2-hydroxyiminoacetate | C(C1=CC=CC=C1)C1=CC=C(O1)C(C(=O)OCC)=NO | C15H15NO4
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-[(5-Benzyl)furan-2-yl]-N-[-2-(acetylthiomethyl)-3-phenylpropionyl]glycine ethyl ester | C(C)OC(C(NC(C(CC1=CC=CC=C1)CSC(C)=O)=O)C=1OC(=CC1)CC1=CC=CC=C1)=O | C27H29NO5S
